US06930120B2
3-(4-Hydroxy-3-methoxy-phenyl)-2-methyl-2-phenoxypropionic acid
A solution of 3-(4-benzyloxy-3-methoxyphenyl)-2-methyl-2-phenoxypropionic acid (6.86 g, 17.5 mmol) in EtOH (175 mL) was added to 5% Pd/C (186 mg, 10 wt %). The mixture was purged first with nitrogen, then with H2, which was then applied at 45 p.s.i. for 2 h. Pd/C was subsequently filtered off through celite, and the filtrate was concentrated to a crude oil (5.42 g, in excess of theory). MS (EI) 301.2 (M−H)−.

reactant | 3-(4-benzyloxy-3-methoxyphenyl)-2-methyl-2-phenoxypropionic acid | 17.5 mmol, 6.86 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(C(=O)O)(OC1=CC=CC=C1)C)OC | C24H24O5
solvent | EtOH | 175 mL | CCO | C2H6O
catalyst | Pd/C | 186 mg | [Pd] | Pd
product | 3-(4-Hydroxy-3-methoxy-phenyl)-2-methyl-2-phenoxypropionic acid | OC1=C(C=C(C=C1)CC(C(=O)O)(OC1=CC=CC=C1)C)OC | C17H18O5
